US05578620
5-(3-Chlorophenoxymethyl)-3-(2-hydroxy-1,1-dimethylethyl)oxazolidin-2-one
7 ml of a 5% w/v solution of hydrogen fluoride in acetonitrile were added dropwise to a solution of 3.84 g of 3-(2-t-butyldimethylsilyloxy-1,1-dimethylethyl)-5-(3-chlorophenoxymethyl)oxazolidin-2-one (prepared as described in Preparation 106) in 40 ml of acetonitrile, and then the mixture was stirred at room temperature for 1 hour. At the end of this time, the solvent was removed from the reaction mixture by evaporation under reduced pressure to give 2.71 g of the title compound, melting at 81° C. to 82° C.

reactant | hydrogen fluoride | F | FH
reactant | 3-(2-t-butyldimethylsilyloxy-1,1-dimethylethyl)-5-(3-chlorophenoxymethyl)oxazolidin-2-one | 3.84 g | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C(OC(C1)COC1=CC(=CC=C1)Cl)=O | C20H32ClNO4Si
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-(3-Chlorophenoxymethyl)-3-(2-hydroxy-1,1-dimethylethyl)oxazolidin-2-one | 2.71 g | ClC=1C=C(OCC2CN(C(O2)=O)C(CO)(C)C)C=CC1 | C14H18ClNO4
